US07834002B2
6-hydroxymethylpyridine-2-carbaldehyde (2.95 g) and triethyl 2-phosphonopropionate (5.12 g) were dissolved in 20 mL of dry DMF, and to the solution was added a solution of 1.30 g of sodium methoxide in 10 mL of methanol dropwise, and the mixture was stirred at room temperature for 20 minutes. The reaction mixture was thrown into ice-water, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (hexane-ethyl acetate=1:1) to give 2.42 g of ethyl (E)-3-(6-hydroxymethylpyridin-2-yl)-2-methylacrylate as a colorless oil.

reactant | 6-hydroxymethylpyridine-2-carbaldehyde | 2.95 g | OCC1=CC=CC(=N1)C=O | C7H7NO2
reactant | triethyl 2-phosphonopropionate | 5.12 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | sodium methoxide | 1.30 g | C[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | methanol | 10 mL | CO | CH4O
product | ethyl (E)-3-(6-hydroxymethylpyridin-2-yl)-2-methylacrylate | 2.42 g | OCC1=CC=CC(=N1)/C=C(/C(=O)OCC)\C | C12H15NO3
